US07576076B2
5-(3-Chlorobenzyl)-1-methylpyrimidin-2,4,6-trione (Compound 3; R3=3-chlorobenzyl, R4=methyl)
Methylurea (1.18 g, 16.0 mmol) and freshly prepared sodium methoxide (1.04 g, 19.2 mmol) were combined in dimethylformamide (15 mL) and a solution of 2-(3-chlorobenzyl)malonic acid diethyl ester (2.85 g, 10.0 mmol) in dimethylformamide (5 mL) was added. The reaction temperature was raised to 130° C. for 2 hours and then cooled to ambient temperature before water was added and the solution acidified with 2N HClaq. The resulting solid was filtered then washed with water and the dried to afford the product as a white solid, 840 mg. LC-MS: RT=2.87 mins, 267 (M+H)+265 (M−H)−.

reactant | Methylurea | 16.0 mmol, 1.18 g | CNC(=O)N | C2H6N2O
reactant | sodium methoxide | 19.2 mmol, 1.04 g | C[O-].[Na+]
reactant | 2-(3-chlorobenzyl)malonic acid diethyl ester | 10.0 mmol, 2.85 g | C(C)OC(C(C(=O)OCC)CC1=CC(=CC=C1)Cl)=O | C14H17ClO4
reactant | water | O | H2O
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-(3-Chlorobenzyl)-1-methylpyrimidin-2,4,6-trione | ClC=1C=C(CC2C(NC(N(C2=O)C)=O)=O)C=CC1 | C12H11ClN2O3
